US09034900B2
Step 2: 3-bromo-4-(cyclopropylmethoxy)aniline
A mixture of 2-bromo-1-(cyclopropylmethoxy)-4-nitrobenzene (1.07 g, 3.9 mmol), ammonium chloride (421 mg, 7.8 mmol), and iron powder (1.1 g, 20 mmol) suspended in THF (6.5 mL), water (2.5 mL) and ethanol (6.5 mL) was heated to 95° C. using microwave irradiation (normal) for 3 h. The crude reaction mixture was filtered through a short plug of celite; the celite plug was washed with MeOH (˜10 mL). The resulting filtrate was concentrated in vacuo. The resulting residue was diluted with EtOAc (50 ml) and washed with saturated bicarbonate solution (aq), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford the title compound, (939 mg, 90%). The material was carried forward without any further purification. LCMS (M+H)+=242.

reactant | 2-bromo-1-(cyclopropylmethoxy)-4-nitrobenzene | 3.9 mmol, 1.07 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OCC1CC1 | C10H10BrNO3
reactant | ammonium chloride | 7.8 mmol, 421 mg | [Cl-].[NH4+]
reactant | water | 2.5 mL | O | H2O
reactant | ethanol | 6.5 mL | C(C)O | C2H6O
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
catalyst | iron | 20 mmol, 1.1 g | [Fe] | Fe
product | 3-bromo-4-(cyclopropylmethoxy)aniline | 939 mg, 90% | BrC=1C=C(N)C=CC1OCC1CC1 | C10H12BrNO
